US08975254B2
c) 2-(3-(2-Methoxy-4-nitrophenyl)-1H-pyrazol-1-yl)ethanamine
The title compound was prepared from 5-(2-Methoxy-4-nitrophenyl)-1H-pyrazole (1.00 g) and 2-(tert-butoxycarbonylamino)ethyl methanesulfonate (1.42 g) using the method of Example 37(c). Yield 0.24 g (as HCl-salt). 1H-NMR (400 MHz; d6-DMSO): δ 3.32 (t, 2H), 4.02 (s, 3H), 4.47 (t, 2H), 6.94 (d, 1H), 7.88-7.93 (m, 3H), 8.12 (br s, 2H), 8.22 (d, 1H).

reactant | 5-(2-Methoxy-4-nitrophenyl)-1H-pyrazole | 1.00 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=CC=NN1 | C10H9N3O3
reactant | 2-(tert-butoxycarbonylamino)ethyl methanesulfonate | 1.42 g | CS(=O)(=O)OCCNC(=O)OC(C)(C)C | C8H17NO5S
product | 2-(3-(2-Methoxy-4-nitrophenyl)-1H-pyrazol-1-yl)ethanamine | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=NN(C=C1)CCN | C12H14N4O3
